US04610986
7-Bromo-9-(1,1-ethylenedioxy)ethyl-6,9-dihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione (571 mg) prepared in the foregoing step and N,N-dimethylethylenediamine (10 ml) were subjected to reaction in a nitrogen stream while cooling with ice for 1 hour. Excess of the N,N-dimethylethylenediamine was eliminated by distillation under reduced pressure. The residue was dissolved in dichloromethane (2 ml) and ether (4 ml) was added thereto, whereby 7-(2-dimethylaminoethyl)amino-9-(1,1-ethylenedioxy)ethyl-6,9-dihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione was obtained as yellow crystals (124 mg). M.P., 192°-196° C.

reactant | 7-Bromo-9-(1,1-ethylenedioxy)ethyl-6,9-dihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione | 571 mg | BrC1C=2C(=C3C(C=4C=CC(C5(C4C(C3=CC2CC(C1)O)=O)OCCO5)CC)=O)O | C22H21BrO6
reactant | N,N-dimethylethylenediamine | 10 ml | CN(CCN)C | C4H12N2
product | 7-(2-dimethylaminoethyl)amino-9-(1,1-ethylenedioxy)ethyl-6,9-dihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione | CN(CCNC1C=2C(=C3C(C=4C=CC(C5(C4C(C3=CC2CC(C1)O)=O)OCCO5)CC)=O)O)C | C26H32N2O6
